US07531532B2
Pyrrolidine-1-carboxylic acid [4-(4-amino-3-methylphenoxy)pyridin-2-yl]amide
To a solution of 4-(3-methyl-4-nitrophenoxy)pyridin-2-ylamine (553 mg, 2.26 mmol) in tetrahydrofuran (20 ml) was added triethylamine (0.471 ml, 3.38 mmol) under a nitrogen atmosphere. Phenyl chloroformate (0.424 ml, 3.38 mmol) was added thereto while ice-cooling, followed by stirring for 20 min. The reaction mixture was concentrated under a reduced pressure to give a residue, to which N,N-dimethylformamide (8.0 ml) and pyrrolidine (0.753 ml, 9.02 mmol), followed by stirring at room temperature for 10 min. The reaction mixture was partitioned between ethyl acetate (60 ml) and water (60 ml). The organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated under a reduced pressure. The resultant residue was dissolved in ethanol (20 ml), and then electrolytic iron powder (505 mg, 9.04 mmol), ammonium chloride (967 ml, 18.1 mmol) and water (5 ml) were added thereto, followed by stirring to heat at 80° C. for 2 hrs. The reaction mixture was cooled down to room temperature, and filtered to remove an insoluble portion. The filtrate was concentrated under a reduced pressure to give a residue, which was then purified by silica gel column chromatography (eluent; hexane/ethyl acetate=1/1, ethyl acetate, then ethyl acetate/methanol=10/1) to provide the titled compound (277 mg, 39.2%) as orange powder.

reactant | 4-(3-methyl-4-nitrophenoxy)pyridin-2-ylamine | 2.26 mmol, 553 mg | CC=1C=C(OC2=CC(=NC=C2)N)C=CC1[N+](=O)[O-] | C12H11N3O3
reactant | triethylamine | 3.38 mmol, 0.471 ml | C(C)N(CC)CC | C6H15N
reactant | Phenyl chloroformate | 3.38 mmol, 0.424 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | pyrrolidine | 9.02 mmol, 0.753 ml | N1CCCC1 | C4H9N
reactant | ammonium chloride | 18.1 mmol, 967 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | iron | 9.04 mmol, 505 mg | [Fe] | Fe
solvent | water | 5 ml | O | H2O
solvent | N,N-dimethylformamide | 8.0 ml | CN(C=O)C | C3H7NO
product | Pyrrolidine-1-carboxylic acid [4-(4-amino-3-methylphenoxy)pyridin-2-yl]amide | 277 mg, 39.2% | NC1=C(C=C(OC2=CC(=NC=C2)NC(=O)N2CCCC2)C=C1)C | C17H20N4O2
